data/oMe_Silver.jsonl
{"reaction_id": "NR-071_1-c1ccccc1_2-C(C)(C)C_3-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_4-CCCC(C)C_5-CCCC(C)C_6-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_7-CCCC(C)C","name": "Evans-Mislow Rearrangement","level": "medium","reactants_smiles": ["C(c1ccccc1)(C(C)(C)C)=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(CCCC(C)C)(CCCC(C)C)S(=O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","O(CCCC(C)C)P(O(CCCC(C)C))O(CCCC(C)C)"],"products_smiles": ["OC(c1ccccc1)(C(C)(C)C)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C(CCCC(C)C)(CCCC(C)C)"],"conditions": "P(OR)3","mechnism_text_description": "The reaction proceeds via a [2,3]-sigmatropic rearrangement of the allylic sulfoxide to form an allylic sulfenate ester intermediate. This intermediate is then trapped by a thiophilic reagent, trialkyl phosphite, which attacks the sulfur atom. This attack results in the cleavage of the S-O bond to form an alkoxide. Subsequent protonation of the alkoxide yields the final allylic alcohol product.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "S(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)OC(c1ccccc1)(C(C)(C)C)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C(CCCC(C)C)(CCCC(C)C)","step_weight": 0,"rationale": "The [2,3]-sigmatropic rearrangement proceeds via a concerted pericyclic pathway, driven by favorable orbital overlap and stabilization of the developing charges through conjugation with the allylic system."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[O-]C(c1ccccc1)(C(C)(C)C)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C(CCCC(C)C)(CCCC(C)C)","step_weight": 0,"rationale": "Trialkyl phosphite, being a strong nucleophile toward soft electrophiles, attacks the sulfur atom, exploiting sulfur’s polarizability and leading to S–O bond cleavage to form a stabilized alkoxide."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(c1ccccc1)(C(C)(C)C)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C(CCCC(C)C)(CCCC(C)C)","step_weight": 0,"rationale": "The alkoxide is protonated under the reaction conditions to yield the neutral allylic alcohol, driven by the thermodynamic stability of the alcohol and the availability of proton sources."}],"description": "The reaction involves a [2,3]-sigmatropic rearrangement of the allylic sulfoxide to generate a sulfenate ester, which is then attacked by trialkyl phosphite at sulfur due to its thiophilicity. This cleavage yields an alkoxide, which is protonated to form the allylic alcohol."}
{"reaction_id": "NR-201_1-CC_2-CC","level": "medium","name": "Nazarov Cyclization Reaction","reactants_smiles": ["C(C(CC))=CC(=O)C=C(C(CC))","CS(=O)(=O)O"],"products_smiles": ["C(CC)C1=CC(=O)CC1(CC)"],"conditions": "H+ OSO2Me","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(CC))=CC(=[OH+])C=CC(CC)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases electrophilicity and stabilizes the developing positive charge via resonance, facilitating oxyallyl cation formation under strong acid."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C1(=CC(C([CH+]1)C(CC))C(CC))O","step_weight": 0,"rationale": "The oxyallyl cation undergoes a conrotatory 4π-electrocyclization, favored by orbital symmetry and leading to a cyclopentenyl cation stabilized by adjacent substituents."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(=CC(C(=C1)C(CC))C(CC))O","step_weight": 0,"rationale": "Deprotonation relieves positive charge on the cyclopentenyl cation, driven by formation of a more conjugated alkene system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)C1=CC(=O)CC1(C(CC))","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the enol to the more stable conjugated ketone, favored by carbonyl bond strength and extended π-conjugation."}],"description": "Under strong acid conditions, the divinyl ketone is protonated to activate the carbonyl toward cation formation. This enables oxyallyl cation generation, which undergoes a Nazarov 4π-electrocyclization to form a cyclopentenyl cation. Subsequent deprotonation and tautomerization yield the thermodynamically stable cyclopentenone product."}
